US07595327B2
To a solution of methyl (1R,2R)-2-amino-1-fluorocyclopentanecarboxylate (0.47 g, 2.4 mmol, 1 eq) in CH2Cl2 (10 mL) was added 4-benzyloxy-benzenesulfonyl chloride followed by saturated sodium bicarbonate (10 mL). The reaction was stirred overnight, and then taken up in ethyl acetate. The organics were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified using silica chromatography eluting with 30% ethyl acetate/hexanes to afford methyl (1R,2R)-2-({[4-(benzyloxy)phenyl]sulfonyl}amino)-1-fluorocyclopentanecarboxylate as an off white solid (0.575 g, 60%). MS: 408.1 (M+H)+.

reactant | methyl (1R,2R)-2-amino-1-fluorocyclopentanecarboxylate | 2.4 mmol, 0.47 g, 1 eq | N[C@H]1[C@](CCC1)(C(=O)OC)F | C7H12FNO2
reactant | 4-benzyloxy-benzenesulfonyl chloride | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (1R,2R)-2-({[4-(benzyloxy)phenyl]sulfonyl}amino)-1-fluorocyclopentanecarboxylate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@](CCC1)(C(=O)OC)F | C20H22FNO5S
